US08466114B2
To an ice cold solution of (5-bromo-2-chloro-phenyl)-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-methanol (2.2 g, 4.7 mmol) in dichloromethane (50 mL) was added Et3SiH (3.7 mL, 23.3 mmol) followed by BF3.OEt2 (1.5 mL, 11.6 mmol). The reaction mixture was stirred at room temperature overnight. The reaction was quenched by the addition of aq. NaHCO3. The volatiles were evaporated under reduced pressure; the resulting mixture was extracted with dichloromethane (2×50 mL), washed with brine (10 mL), dried over sodium sulfate, concentrated and purified by silica gel column chromatography to give 6-(5-Bromo-2-chloro-benzyl)-1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinoline (1.48 g).

reactant | (5-bromo-2-chloro-phenyl)-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-methanol | 4.7 mmol, 2.2 g | BrC=1C=CC(=C(C1)C(O)C=1C=C2CCCN(C2=CC1)CC1=CC=C(C=C1)OC)Cl | C24H23BrClNO2
reactant | Et3SiH | 23.3 mmol, 3.7 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.OEt2 | 11.6 mmol, 1.5 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-(5-Bromo-2-chloro-benzyl)-1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinoline | 1.48 g | BrC=1C=CC(=C(CC=2C=C3CCCN(C3=CC2)CC2=CC=C(C=C2)OC)C1)Cl | C24H23BrClNO
